US04176184
7,7-Dimethyl-2-(2-methoxy-5-methylsulfinyl-phenyl)-5H,7H-imidazo[4,5-h]isoquinoline-4,6-dione
3.0 gm of 7,7-dimethyl-2-(2-methoxy-5-metylmercapto-phenyl)-5H,7H-imidazo[4,5-h]isoquinoline-4,6-dione were dissolved in 60 ml of glacial acetic acid and then 0.88 ml of 30% hydrogen peroxide were slowly added dropwise at room temperature. After stirring for 30 minutes, the solution was neutralized with an aqueous saturated potassium carbonate solution, diluted with water and extracted with chloroform. The residual crude product obtained after evaporation of the chloroform was purified on a silicagel column (eluant: chloroform with increasing content of acetone).

reactant | 7,7-dimethyl-2-(2-methoxy-5-metylmercapto-phenyl)-5H,7H-imidazo[4,5-h]isoquinoline-4,6-dione | 3.0 gm | CC1(N=CC2=C3C(C(CC2C1=O)=O)=NC(=N3)C3=C(C=CC(=C3)SC)OC)C | C20H19N3O3S
reactant | hydrogen peroxide | 0.88 ml | OO | H2O2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | acetic acid | 60 ml | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 7,7-Dimethyl-2-(2-methoxy-5-methylsulfinyl-phenyl)-5H,7H-imidazo[4,5-h]isoquinoline-4,6-dione | CC1(N=CC2=C3C(C(CC2C1=O)=O)=NC(=N3)C3=C(C=CC(=C3)S(=O)C)OC)C | C20H19N3O4S
